US04992435
Acetoxy-5,6-dihydro-5.5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran
A solution of 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran (2.0 g, 7.48 mmol) and perchloric acid (70%, 10 drops) in acetic anhydride (20 mL) were stirred for 1 h at 0°-5° C. The solution was poured into ice water (100 mL). The product was extracted into dichloromethane, washed with water (4x), and evaporated in vacuo. The resultant oil was purified by flash chromatography, using 1% methanol in dichloromethane as the eluant, then crystallized from hexanes to give the product, 2.12 g (92%), as a colorless solid: mp 92°-93° C.; IR(KBr): 1745 and 1684 cm-1 ; MS: 310 (MH+); 1H NMR (CDCl3): δ 1.37 (s, 3H), 1.38 (s, 3H), 1.98 (m, 2H), 2.10 (s, 3H), 2.37 (m, 2H), 3.24 (m, 1H), 3.40 (m, 1H), 5.15 (d, J=9.1 Hz, 1H), 5.44 (d, J=9.1 Hz, 1H), 6.58 (d, J=5.4 Hz, 1H) and 7.13 (d, J=5.4 Hz, 1H).

reactant | 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran | 7.48 mmol, 2.0 g | OC1C(C2=C(OC1(C)C)C=CS2)N2C(CCC2)=O | C13H17NO3S
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | perchloric acid | 10 drops | Cl(=O)(=O)(=O)O | ClHO4
product | Acetoxy-5,6-dihydro-5.5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran | C(C)(=O)OC1=CC=2OC(CC(C2S1)N1C(CCC1)=O)(C)C | C15H19NO4S
